US09056859B2
A solution of compound 2,6-difluorobenzonitrile (5 g, 36 mmol) in concentrated sulfuric acid (25 mL) was added with NBS (7 g, 39.6 mmol) at 0° C. and stirred at ambient temperature for 2 days. Ice was added to the reaction solution. The mixture was extracted with EtOAc. The organic layer was washed with water, saturated NaHCO3 solution, brine, dried over anhydrous sodium sulfate and concentrated. The residue was purified with fast column chromatograph to give compound 3-bromo-2,6-difluorobenzonitrile. 1H-NMR (400 MHz, CDCl3) δ ppm 7.78˜7.83 (m, 1H), 6.98˜7.03 (m, 1H).

reactant | 2,6-difluorobenzonitrile | 36 mmol, 5 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | NBS | 39.6 mmol, 7 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | sulfuric acid | 25 mL | S(O)(O)(=O)=O | H2O4S
product | 3-bromo-2,6-difluorobenzonitrile | BrC=1C(=C(C#N)C(=CC1)F)F | C7H2BrF2N
